US07259177B2
tert-Butyl 2-(diethoxyphosphoryl)-3-methylbutyrate
5.5 ml of tert-butyl diethylphosphonoacetate are dissolved in 20 ml of dimethylformamide, and 820 mg of sodium hydride (60% strength in paraffin oil) are added a little at a time at 0° C. The suspension is stirred at 0° C. for 15 minutes, and 2.4 ml of isopropyl iodide are then added. The mixture is stirred at room temperature for 12 hours. 250 ml of ethyl acetate are then added, and the reaction mixture is washed three times with in each case 150 ml of water. The organic phase is dried over MgSO4 and concentrated under reduced pressure. The residue is purified on silica gel using the mobile phase n-heptane:ethyl acetate=5:1. This gives 4.2 g of tert-butyl 2-(diethoxyphosphoryl)-3-methylbutyrate as an oil. C13H27O5P (294.33), MS(ESI): 239 (M-C4H8+H+), Rf(n-heptane:ethyl acetate=1:1)=0.34.

reactant | tert-butyl diethylphosphonoacetate | 5.5 ml | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | sodium hydride | 820 mg | [H-].[Na+]
reactant | isopropyl iodide | 2.4 ml | C(C)(C)I | C3H7I
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 2-(diethoxyphosphoryl)-3-methylbutyrate | C(C)OP(=O)(OCC)C(C(=O)OC(C)(C)C)C(C)C | C13H27O5P
